Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
chest pain, DOE
 
Major Surgical or Invasive Procedure:
Percutaneous aortic valvuloplasty
Bare metal stent placed in SVG-D1

 
History of Present Illness:
 Patient is an ___ y/o male with PMHx CAD s/p CABG, iCM (EF 35%), 
AS who presented to the ED with chest pain, DOE, and a near 
syncopal episode prior to presentation.  
.  
On review of systems, s/he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. S/he denies recent fevers, chills or 
rigors. S/he denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
.  
In the ED, initial vitals were Afeb, 68, 134/38, 18, 100%RA. The 
patient recieved ASA 325mg x 1.  
On the floors, the patient was kept on his home medications. He 
underwent a cardiac cath which showed 3 vessel disease as well 
as severe aortic stenosis. He was evaluated by Thoracic surgery 
for an AVR, however it was decided he would be a better patient 
for a valvuloplasty. He underwent valvuloplasty with Dr. ___ 
on ___ where his gradient improved from 65 to 41 mmHg and 
increased of CO from 4.39 to 4.8. He also underwent BMS to 
SVG-D1. During the procedure he felt abdominal cramps such as if 
he were to move his bowels as well as nausea and vomited x1 a 
black material that he reports looked like blood. His blood 
pressure decreased from 150/46 to 118/46 mmHg. At some point 
during procedure, nurse was concerned for a "seizure", but 
patient was awake and with normal exam when physicians evaluated 
him. He was transferred to the CCU for monitoring post 
procedure.  

 
Past Medical History:
 Acute myocardial infarction ___ and ___  
- Aortic valve stenosis (peak gradient 83mm, Mean gradient 
48mmHg, 0.8cm)  
- Moderate AI  
- LVEF 35-40% with inferior and basilar septal HK.  
- Paroxysmal Atrial Fibrillation  
 
1. CARDIAC RISK FACTORS: Dyslipidemia, Hypertension  
2. CARDIAC HISTORY:  
-CABG: -Coronary Artery Bypass Graft x ___ ___ (LIMA-LAD, 
SVG to rPRA, DM,OM)  
-PERCUTANEOUS CORONARY INTERVENTIONS: -Angiojet extraction of 
thrombus/PTCA with stenting of saphenous  
vein graft->Obtuse marginal artery ___ ___  
3. OTHER PAST MEDICAL:  
Gastroesophageal reflux disease  
Low grade dementia with memory loss and emotional lability  
Hiatal hernia  
Hematuria  
-Hernia repair  
-Appendectomy  

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  

 
Physical Exam:
VS: T= 97.8 BP=131/56 mmHg HR=53 RR=12 O2 sat=99% 2 L  
GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP of 10 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. SEM harsh, in RUSB louder, but audible 
in all sites, radiating towards both carotid arteries. He also 
has a ___ diastolic murmur best heard in LLSB. No r/g. No 
thrills, lifts. No S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

 
Pertinent Results:
___ 07:15PM BLOOD WBC-7.7 RBC-3.99* Hgb-12.0* Hct-35.4* 
MCV-89 MCH-30.1 MCHC-33.9 RDW-13.1 Plt ___
___ 06:35AM BLOOD WBC-6.9 RBC-3.68* Hgb-11.1* Hct-32.7* 
MCV-89 MCH-30.2 MCHC-34.0 RDW-13.2 Plt ___
___ 06:35AM BLOOD WBC-8.4 RBC-3.75* Hgb-11.5* Hct-33.1* 
MCV-88 MCH-30.5 MCHC-34.6 RDW-13.1 Plt ___
___ 06:40AM BLOOD WBC-8.1 RBC-3.53* Hgb-10.6* Hct-31.5* 
MCV-89 MCH-30.2 MCHC-33.8 RDW-13.4 Plt ___
___ 04:40AM BLOOD WBC-8.2 RBC-3.58* Hgb-10.8* Hct-32.1* 
MCV-90 MCH-30.1 MCHC-33.6 RDW-13.6 Plt ___
___ 05:45AM BLOOD WBC-7.5 RBC-3.56* Hgb-11.1* Hct-31.8* 
MCV-89 MCH-31.1 MCHC-34.8 RDW-13.4 Plt ___
___ 05:15AM BLOOD WBC-8.4 RBC-3.20* Hgb-9.8* Hct-28.0* 
MCV-87 MCH-30.7 MCHC-35.1* RDW-13.6 Plt ___
.
___ 07:15PM BLOOD ___ PTT-28.0 ___
___ 05:45AM BLOOD ___
___ 05:15AM BLOOD ___ PTT-24.0 ___
.
___ 07:15PM BLOOD Glucose-158* UreaN-36* Creat-1.6* Na-141 
K-4.7 Cl-105 HCO3-27 AnGap-14
___ 06:35AM BLOOD Glucose-105* UreaN-34* Creat-1.5* Na-144 
K-4.3 Cl-108 HCO3-28 AnGap-12
___ 06:35AM BLOOD Glucose-109* UreaN-29* Creat-1.4* Na-142 
K-4.1 Cl-107 HCO3-28 AnGap-11
___ 06:40AM BLOOD Glucose-106* UreaN-32* Creat-1.5* Na-141 
K-4.3 Cl-105 HCO3-25 AnGap-15
___ 04:40AM BLOOD Glucose-107* UreaN-33* Creat-1.5* Na-138 
K-4.1 Cl-105 HCO3-26 AnGap-11
___ 05:45AM BLOOD Glucose-106* UreaN-32* Creat-1.4* Na-142 
K-4.3 Cl-107 HCO3-27 AnGap-12
___ 06:50AM BLOOD Glucose-101* UreaN-34* Creat-1.4* Na-141 
K-4.1 Cl-106 HCO3-27 AnGap-12
___ 05:44PM BLOOD Na-139 K-4.4 Cl-106
___ 05:15AM BLOOD Glucose-119* UreaN-30* Creat-1.5* Na-138 
K-3.9 Cl-104 HCO3-24 AnGap-14
.
___ 06:35AM BLOOD CK(CPK)-58
___ 01:25PM BLOOD ALT-11 AST-17 AlkPhos-50 TotBili-0.4
___ 05:44PM BLOOD CK(CPK)-93
___ 05:15AM BLOOD CK(CPK)-71
___ 07:15PM BLOOD cTropnT-0.02*
___ 06:35AM BLOOD CK-MB-3 cTropnT-0.02*
___ 05:44PM BLOOD CK-MB-8
___ 05:15AM BLOOD CK-MB-5
.
___ 06:35AM BLOOD Calcium-9.2 Phos-4.5 Mg-2.5
___ 06:35AM BLOOD Calcium-9.0 Phos-4.4 Mg-2.4
___ 06:40AM BLOOD Calcium-9.3 Phos-4.2 Mg-2.2
___ 04:40AM BLOOD Calcium-8.7 Phos-4.6* Mg-2.3
___ 05:45AM BLOOD Calcium-8.8 Phos-3.8 Mg-2.2
___ 06:50AM BLOOD Calcium-8.6 Phos-3.9 Mg-2.4
___ 05:15AM BLOOD Calcium-8.5 Phos-4.2 Mg-2.3
.
___ 05:44PM BLOOD Iron-20*
___ 05:44PM BLOOD calTIBC-244 Ferritn-342 TRF-188*
.
___ 06:35AM BLOOD %HbA1c-6.5* eAG-140*
.
REPORTS
CARDIAC CATH ___
COMMENTS:      
1. Selective coronary angiography in this right dominant system 
demonstrated three vessel disease. The LMCA has no 
angiographically 
apparent disease. The LAD had a total occlusion in the proximal 
portion 
of the vessel and a diagonal with an 80% mid vessel stenosis. 
The Cx had 
a total proximal occlusion. The RCA had a total proximal 
occlusion. 
2. Limited resting hemodynamics revealed elevated right and left 
sided 
filling pressures with an RVEDP of 14mmHg and an LVEDP of 
21mmHg. The 
Pulmonary pressures were moderately elevated with a PASP of 
44mmHg. The 
cardiac index was preserved at 2.2 l/min/m2. There was a 60mmHg 
gradient 
from the LV to the aorta on pullback of the catheter. The 
central aortic 
pressure was noted to be 143/44 mmHg. 
3. Limited arterial conduit arteriography revealed an SVG to OMB 
that 
had a 40-50% ostial stenosis. The SVG to PDA had a 60-70% 
stenosis in 
the mid portion of the SVG. The RPDA was a very large vessel and 

provided collaterals to the Cx distribution. The SVG to Diagonal 
had a 
90% ostial stenosis with slow flow into the diagonal branch. The 

diagonal branch had collateral from the LAD. The LIMA to the LAD 
was 
widely patent and the LAD was a small vessel in caliber. 
  
FINAL DIAGNOSIS:     
1. Three vessel coronary artery disease. 
2. Severe aortic stenosis. 
3. Moderate diastolic ventricular dysfunction. 
4. Moderate pulmonary hypertension. 
.
CT Chest w/o contrast ___
FINDINGS: 
The patient is after median sternotomy and CABG. The appearance 
of the 
sternum is unremarkable with no evidence of dehiscence. There 
are several 
bypass grafts noted, at least two originating from the ascending 
aorta.  
Descending aorta is normal in diameter, not exceeding 3 cm. 
Calcifications 
involve the entire ascending aorta and starts approximately 7 cm 
above the 
aortic valve. The extent of calcification is more pronounced at 
the anterior circumference of the aorta than at the posterior 
part. There is a small gap between the superior end of the 
calcifications and the first bypass graft, approximately 1.5 cm 
in diameter. The aortic arch and descending aorta are calcified 
as well. The aortic valve is heavily calcified. The diameter of 
the pulmonary arteries is unremarkable. Native coronary arteries 
are extremely calcified. Heart size is normal. There is a 
relative bulging of the cardiac apex that potentially may 
represent a prior myocardial infarct of the apex of the left 
ventricle. The imaged portion of the upper abdomen demonstrates 
calcified abdominal aorta, atrophic changes in the pancreas. 
Several mediastinal lymph nodes are 
not pathologically enlarged. The airways are patent to the level 
of subsegmental bronchi bilaterally. Diffuse bronchial wall 
thickening is noted, bilaterally, mostly in the upper lungs. 
Those findings in conjunction with multiple centrilobular 
nodules might be consistent with respiratory bronchiolitis/viral 
infection. Superior segment of right lower lobe subpleural 
lesion, 4:90, is 10 x 7 mm in diameter and most likely 
represents atelectasis, but would require further followup to 
exclude the possibility of neoplasm. A right hilar calcified 
lymph nodes as well as right lower lobe calcified granuloma are 
consistent with prior ranulomatous exposure. Bibasilar linear 
opacities most likely representing 
areas of atelectasis. Left upper lobe posterior nodule, is 2.5 
cm in 
diameter, 4:75, a lingular nodule is calcified, 4:113. There is 
no pleural or pericardial effusion demonstrated. Extensive 
degenerative changes are present in the thoracic spine. There 
are no bone lesions worrisome for infection or neoplasm.  
IMPRESSION: 
1. Extensive calcifications of the ascending aorta as described 
in detail in the body of the report. 
2. Status post CABG with at least two bypasses originating from 
the ascending aorta. 
3. Extensive calcifications of native coronary arteries and 
aortic valve.  
Questionable prior myocardial infarct involving the left 
ventricular apex. 
4. Suspected respiratory bronchiolitis/infectious process in the 
upper lungs, correlate if history of smoking is present. 
5. Superior segment of right lower lobe atelectasis versus 
nodule, should be evaluated in three months for documentation of 
stability/resolution. 
.
Pulmonary Report SPIROMETRY, LUNG VOLUMES, DLCO Study Date of 
___  2:53 ___ 
 
  
SPIROMETRY 2:53 ___ Pre drug Post drug 
    Actual Pred %Pred Actual %Pred %chg 
FVC   3.28 3.51 94       
FEV1   2.10 2.12 99       
MMF   1.07 1.75 61       
FEV1/FVC   64 60 106       
 
LUNG VOLUMES 2:53 ___ Pre drug Post drug 
    Actual Pred %Pred Actual %Pred 
TLC   6.19 6.13 101       
FRC   3.80 3.55 107       
RV   3.18 2.63 121       
VC   3.14 3.51 89       
IC   2.38 2.58 92       
ERV   0.62 0.93 67       
RV/TLC   51 43 120       
He Mix Time   1.50           
 
DLCO 2:53 ___   
    Actual Pred %Pred 
DSB   13.38 21.28 63       
VA(sb)   5.65 6.13 92       
HB   14.60           
DSB(HB)   13.38 21.28 63       
DL/VA   2.37 3.47 68 
. 
ECHO ___
The left atrium is elongated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. There is mild global left ventricular hypokinesis (LVEF 
= 45 %). Tissue Doppler imaging suggests an increased left 
ventricular filling pressure (PCWP>18mmHg). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets are severely thickened/deformed. There is critical 
aortic valve stenosis (valve area 0.5 cm2). Mild to moderate 
(___) aortic regurgitation is seen. The mitral valve leaflets 
are mildly thickened. There is no mitral valve prolapse. 
Moderate (2+) mitral regurgitation is seen. [Due to acoustic 
shadowing, the severity of mitral regurgitation may be 
significantly UNDERestimated.] The left ventricular inflow 
pattern suggests impaired relaxation. The tricuspid valve 
leaflets are mildly thickened. There is no pericardial effusion. 
 
.
Carotid series ___ Final Report 
Study: Carotid Series Complete 
___ year old man s/p CABG, with worsening AS, work-up for 
AVR.. 
Findings: Duplex evaluation was performed of bilateral carotid 
arteries. On
the right there is bulky heterogeneous plaque in the ICA and 
ECA. On the left there is significant heterogeneous plaque in 
the ICA and a tiny plaque in the ECA. Both CCA waveforms are 
blunted consistent with know AS. 
On the right systolic/end diastolic velocities of the ICA 
proximal, mid and distal respectively are 93/10, 76/15, 77/17, 
cm/sec. CCA peak systolic 
velocity is 86 cm/sec. ECA peak systolic velocity is 107 cm/sec. 
The ICA/CCA ratio is 1.0. These findings are consistent with 
<40% stenosis. 
On the left systolic/end diastolic velocities of the ICA 
proximal, mid and 
distal respectively are 479/105, 223/39, 144/39, cm/sec. CCA 
peak systolic 
velocity is 77 cm/sec. ECA peak systolic velocity is 147 cm/sec. 
The ICA/CCA ratio is 6.2. These findings are consistent with 
80-99% stenosis. 
There is antegrade right vertebral artery flow. There is 
antegrade left vertebral artery flow. 
Impression: Right ICA stenosis <40%. Left ICA stenosis 80-99%  
.

 
Brief Hospital Course:
Patient is an ___ y/o male with PMHx CAD s/p CABG, iCM (EF 35%), 
AS who presented to the ED with chest pain, DOE, and a near 
syncopal episode secondarily to severe AS, not a surgical 
candidate now s/p valvuloplasty. 
.
# CORONARIES: Pt with 3V CAD s/p CABG and with cath showing LMCA 
Nl; LAD 100% proximal, D1 80% mid; Cx 100% ___, Rca 100% ___ 
SVG to OMB 40-50% ostial, SVG-PDA 60-70%, SVG-D 90% ostial. Pt 
underwent valvuloplasty via cardiac cath on ___ and had BMS to 
SVG-D1 placed at same time.  He was continued on ASA, plavix, 
statin, ACEi and betablocker therapy. He tolerated the 
valvuloplasty well and was shown to have some improvement in his 
AV gradient post-procedure. He was monitored overnight after the 
valvuloplasty and discharged from the CCU in apparent good 
health, without SOB, palpitations, chest pain, or 
lightheadedness. ___ was consulted and cleared pt for discharge 
to home.   
.  
# PUMP: Pt with EF of 45% on TTE performed ___. Currently no 
signs of acute diastolic heart failure.  He was continued on 
ACEi, betablocker therapy and was  diuresed with lasix to 
improve cardiopulmonary and volume status. Exam was monitored 
closely and pt was stable at discharge.
.  
# RHYTHM: Pt with new LBBB. He is pain free. No signs if 
ischemia or dynamic changes. Likely secondarily to pacing or 
balloon dilation s/p valvuloplasty. He was followed on serial 
ECGs which did not show progression suggestive of cardiac 
ischemia.  
.  
#. Chronic kidney disease: Stage 3b CKD with eGFR 51 ml/min 
(MDRD). PTH goal 35-70. At his baseline.  Continued on home ACEi 
with inpt monitoring of serum creatinine. He had good urine 
output during his admission.  To be be followed as an 
outpatient. 
.  
#. Anemia: Normocytic, normochromic, normal RDW (13.5). HCT 
stable.  Guaiac stools was negative for occult blood. To 
followed and worked up as an outpatient.
.  
#. Diabetes Mellitus: New diagnosis. Pt with A1C of 6.5% on 
admission. He had diabetes education and kept on ISS. He was 
continued on ACEi therapy. He will follow this issue as an 
outpatient.   
.
# Hypertension: Continued home-medications.  
.  
#. Hyperlipidemia: Continued simvastatin.  

 
Medications on Admission:
Lasix 40mg daily  
Metoprolol 25mg twice daily  
Ramipril 2.5mg daily  
Zocor 40mg daily  
Aspirin 81mg daily  
(Coumadin recently discontinued)  

 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
3. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
6. Ramipril 1.25 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Aortic Stenosis s/p valvuloplasty
CAD
DM type 2
diastolic CHF

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you at ___. You were admitted 
through the emergency department with complaints of chest pain 
and difficulty breathing. You described difficulty walking up 
stairs and you had a near-fainting episode as well. We believe 
these symptoms were due to your history of heart valve disease. 
You underwent a heart catheterization procedure on ___ which 
confirmed your heart valve disease. 
You were scheduled and taken for repeat catheterization 
procedure, this time to fix your valve on ___. A bare metal 
stent was also placed in one of the blood vessels of your heart.
.
You were also diagnosed as having diabetes mellitus. This will 
need to be followed by your primary care physician.
.
The following changes were made to your medications: 
START Metoprolol Succinate 50mg Daily
START Clopidogrel 75mg daily
INCREASE Aspirin 325mg daily
STOP Aspirin 81mg daily
STOP Metoprolol tartrate
CONTINUE Lasix 40mg daily  
CONTINUE Ramipril 2.5mg daily  
CONTINUE Zocor 40mg daily
.
Please follow up with your physician at the ___ below:
 
Followup Instructions:
___